US04704459
In 10 ml of methylene chloride was dissolved 500 mg of 2-(2,4-difluorophenylamino)-5-fluoro-6-(mesitylenesulfonyloxy)nicotinoyl chloride, and 1 ml of a methylene chloride solution containing 77 mg of imidazole and 120 mg of triethylamine was dropped into the resulting solution at -20° C., after which the resulting mixture was subjected to reaction at room temperature for 30 minutes. Subsequently, 5 ml of water was added to the reaction mixture, and the pH thereof was adjusted to 2.0 with 2N hydrochloric acid. The organic layer was separated, washed successively with 5 ml of water and 5 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and to the crystalline material thus obtained was added 2 ml of diisopropyl ether, after which crystals were collected by filtration to obtain 485 mg (yield 91.1%) of 1-[2-(2,4-difluorophenylamino)-5-fluoro-6-(mesitylenesulfonyloxy)nicotinoyl]imidazole having a melting point of 98°-101° C.

reactant | 2-(2,4-difluorophenylamino)-5-fluoro-6-(mesitylenesulfonyloxy)nicotinoyl chloride | 500 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)Cl)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C21H16ClF3N2O4S
reactant | imidazole | 77 mg | N1C=NC=C1 | C3H4N2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | diisopropyl ether | 2 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
solvent | triethylamine | 120 mg | C(C)N(CC)CC | C6H15N
product | 1-[2-(2,4-difluorophenylamino)-5-fluoro-6-(mesitylenesulfonyloxy)nicotinoyl]imidazole | 485 mg, yield 91.1% | FC1=C(C=CC(=C1)F)NC1=C(C(=O)N2C=NC=C2)C=C(C(=N1)OS(=O)(=O)C1=C(C=C(C=C1C)C)C)F | C24H19F3N4O4S
